US05182263
A solution of 3.50 g of (S)-4-carboxymethyl)-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester in 40 mL of dry toluene and 10 mL of dimethylformamide di-t-butyl acetal was heated to a bath temperature of 80° C. for 4 hours. After cooling, the mixture was diluted with 100 mL of ether and was washed with water and saturated sodium chloride solution and was dried over magnesium sulfate. The residue obtained after filtration and evaporation was chromatographed over 150 g of silica gel, eluting with 20% ethyl acetate-hexane to give 2.663 g of (S)-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)2-oxoethyl]benzenepropanoic acid methyl ester.

reactant | alpha-[[(1,1-dimethylethoxy)carbonyl]amino]benzenepropanoic acid methyl ester | COC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C15H21NO4
reactant | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide di-t-butyl acetal | 10 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | ether | 100 mL | CCOCC | C4H10O
product | (S)-alpha-[[(1,1-dimethylethoxy)carbonyl]amino]-4-[2-(1,1-dimethylethoxy)2-oxoethyl]benzenepropanoic acid methyl ester | 2.663 g | COC([C@H](CC1=CC=C(C=C1)CC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C21H31NO6
